US08957064B2
Step 1: 6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol
20 g (124.1 mmol) 5-Pyridine-2-yl-4H-[1,2,4]triazole-3-ylamine and 52.8 g (223.4 mmol) diethyl phenylmalonate are heated in 48.8 mL (204.8 mmol) tributylamine at 180° C. over night. After addition of additional 27 mL diethyl phenylmalonate the reaction mixture is heated for another night at 180° C. The reaction mixture is diluted with water and 2N NAOH and extracted three times with methyl-tert.butylether. The organic extracts are discarded after TLC check. The aqueous phase is acidified with 2M HCl until a pH of 1. The formed precipitate is collected by filtration, washed with plenty of water and dried. 18.96 g (45%) of the desired product are obtained which are used in the next step without further purification.

reactant | 5-Pyridine-2-yl-4H-[1,2,4]triazole-3-ylamine | 124.1 mmol, 20 g | N1=C(C=CC=C1)C=1NC(=NN1)N | C7H7N5
reactant | diethyl phenylmalonate | 223.4 mmol, 52.8 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | tributylamine | 204.8 mmol, 48.8 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | diethyl phenylmalonate | 27 mL | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
solvent | water | O | H2O
product | 6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidine-5,7-diol | 18.96 g, 45% | C1(=CC=CC=C1)C=1C(=NC=2N(C1O)N=C(N2)C2=NC=CC=C2)O | C16H11N5O2
